### PR TITLE
[Merged by Bors] - feat: Scott topology on a preorder

### PR DESCRIPTION
**Pull request by mans0954**
Introduce the Scott topology on a preorder, defined in terms of directed sets.

There is already a related notion of Scott topology defined in `topology.omega_complete_partial_order`, where it is defined on ω-complete partial orders in terms of ω-chains. In some circumstances the definition given here coincides with that given in `topology.omega_complete_partial_order` but in general they are different. Abramsky and Jung ([Domain Theory, 2.2.4][abramsky_gabbay_maibaum_1994]) argue that the ω-chain approach has pedagogical advantages, but the directed sets approach is more appropriate as a theoretical foundation.

---

- [x] depends on: #2543
- [x] depends on: #5631
- [x] depends on: #5672

Previously submitted to mathlib https://github.com/leanprover-community/mathlib/pull/18448

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 1]
```diff
@@ -0,0 +1,400 @@
...
+  exact Or.inl hab
+
+lemma directed_on_pair (a b : α) (hab: a ≤ b) : DirectedOn (· ≤ ·) ({a, b} : Set α) :=
+  (pair_is_chain _ _ hab).directedOn
+
+/--
+A function which preserves lub on directed sets
+-/
+def preserve_lub_on_directed (f : α → β) := ∀ (d : Set α) (a : α), d.Nonempty → DirectedOn (· ≤ ·)
+  d → IsLUB d a → IsLUB (f '' d) (f a)
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:81]: This belongs in an earlier file.

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:81]: I think that's probably true of everything in the `preorder` section.

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:81]: Also, it should probably be `def preserveLUB_onDirected` or something like that? (Is the new naming convention documented somewhere?)

**Comment by mans0954** [comment]
@YaelDillies `docs/references.bib` doesn't seem to have been ported yet, so not sure what I should do with the [additional reference](https://github.com/leanprover-community/mathlib/pull/18448/commits/94a00fc17ab4b51bdbf19eb14b0fccfd2f7cd778)?

**Comment by YaelDillies** [comment]
Uh, not sure. Please bring it up on Zulip.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: I've split this out into a separate PR (for mathlib since it touches a ported file) https://github.com/leanprover-community/mathlib/pull/18517

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#2543
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#2543~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 1 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Now merged, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 2]
```diff
@@ -0,0 +1,373 @@
...
+        constructor
+        . exact hb
+        . exact (Ici b ∩ d).subset_univ,
+      isOpen_inter := by
+        intros s t
+        intros hs
+        intro ht
+        intros d a hd₁ hd₂ hd₃ ha
+        obtain ⟨ b₁, ⟨hb₁_w, hb₁_h ⟩ ⟩  := hs d a hd₁ hd₂ hd₃ ha.1
+        obtain ⟨ b₂, ⟨hb₂_w, hb₂_h ⟩ ⟩  := ht d a hd₁ hd₂ hd₃ ha.2
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:136]:
```suggestion
        obtain ⟨b₁, hb₁_w, hb₁_h⟩ := hs d a hd₁ hd₂ hd₃ ha.1
        obtain ⟨b₂, hb₂_w, hb₂_h⟩ := ht d a hd₁ hd₂ hd₃ ha.2
```
and elsewhere

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 3]
```diff
@@ -0,0 +1,373 @@
...
+        rw [DirectedOn] at hd₂
+        obtain ⟨ c, ⟨hc_w, hc_h ⟩ ⟩ := hd₂ b₁ hb₁_w b₂ hb₂_w
+        use c
+        constructor
+        . exact hc_w
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:141]:
```suggestion
        refine ⟨c, hc_w, ?_⟩
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 4]
```diff
@@ -0,0 +1,373 @@
...
+        apply hd₃
+      rw [WithScottTopology.isOpen_iff_upper_and_LUB_mem_implies_inter_nonempty] at hu
+      have e2: ((f '' d) ∩ u).Nonempty := by
+        apply hu.2
+        exact Nonempty.image f hd₁
+        have e3: Monotone f := by
+          apply ScottContinuous.monotone
+          exact h
+        apply directedOn_image.mpr
+        apply DirectedOn.mono hd₂
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:293]: Please use dot notation

**Comment by YaelDillies** [comment]
General design question: Why are you not doing the same thing as with the lower topology? namely define a typeclass for a topology on a preorder to be the Scott topology, and then define a type synonym equipping a preorder with that topology. Here you have the synonym but not the typeclass.

**Comment by mans0954** [comment]
> General design question: Why are you not doing the same thing as with the lower topology? namely define a typeclass for a topology on a preorder to be the Scott topology, and then define a type synonym equipping a preorder with that topology. Here you have the synonym but not the typeclass.

For the Lower Topology I needed the typeclass to prove [this result](https://github.com/leanprover-community/mathlib4/blob/e3fe5fafccd06004296c268fdc1413c943bab7b7/Mathlib/Topology/Order/LowerTopology.lean#L253) and ultimately [continuity of the inf](https://github.com/leanprover-community/mathlib4/blob/e3fe5fafccd06004296c268fdc1413c943bab7b7/Mathlib/Topology/Order/LowerTopology.lean#L285). I haven't needed to show that something is an instance of the Scott Topology yet. I was going to introduce the typeclass as and when the need arose - but I'm happy to add it preemptively if that's the right thing to do?

**Comment by YaelDillies** [comment]
Yes, this sounds like the correct design decision.

**Comment by mans0954** [comment]
> Yes, this sounds like the correct design decision.

@YaelDillies - just to be certain - is that yes to when the need arises or yes to add preemptively? Thanks.

**Comment by YaelDillies** [comment]
Yes to add it preemptively. Changing the design after the fact isn't a drop-in replacement (some refactors can be postponed because they are drop-in replacements), so I would like us to get it right straight away.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 5]
```diff
@@ -0,0 +1,373 @@
...
+  bound of a directed set `d` lies in `u` then there is a tail of `d` which is a subset of `u`..
+
+## Main statements
+
+- `WithScottTopology.is_open_is_upper` - Scott open sets are upper
+- `WithScottTopology.is_closed_is_lower` - Scott closed sets are lower
+- `WithScottTopology.continuous_monotone` - Scott continuous functions are monotone.
+- `preserve_lub_on_directed_iff_scott_continuity` - a function preserves least upper bounds of
+  directed sets if and only if it is Scott continuous
+- `WithScottTopology.t0_space` - the Scott topology on a partial order is T₀
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 6]
```diff
@@ -259,7 +259,7 @@ lemma continuous_monotone {f : WithScottTopology α → WithScottTopology β}
 
 end WithScottTopology
 
-lemma ScottContinuous_iff_continuous_wrt_Scott
+lemma ScottContinuous_iff_continuousWrtScott
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:262]: `ContinuousWrtScott` isn't a declaration, so this name looks wrong.

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:262]: So, was the original name correct in this case?

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 4 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:284]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 6 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:262]: No, it is weird too. Hopefully the Scott topology typeclass will let you find a better name.

**Comment by mans0954** [comment]
> Yes to add it preemptively. Changing the design after the fact isn't a drop-in replacement (some refactors can be postponed because they are drop-in replacements), so I would like us to get it right straight away.

Okay, I've done this now, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 6 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:281]: > No, it is weird too. Hopefully the Scott topology typeclass will let you find a better name.

@YaelDillies  The typeclass? Am I to infer from this that you think this result should be stated as:
```
lemma nameTBD [TopologicalSpace α] [ScottTopology α] [TopologicalSpace β] [ScottTopology β]
  (f : α → β) :
  ScottContinuous f ↔ Continuous f := sorry
```
?

Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:281]: Yeah, that sounds right.

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:281]: Or possibly?
```
lemma ContinuousEqScottContinuous [TopologicalSpace α] [ScottTopology α] [TopologicalSpace β] [ScottTopology β]
  (f : α → β) :
  Continuous f = ScottContinuous f :=
```

Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:281]: No, your previous `scottContinuous_iff_continuous` looked best. And you should tag it simp.

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:281]: Presumably I should also change the results this result depends upon from `WithScottTopology` to `ScottTopology` e.g.
```
variable [TopologicalSpace β] [ScottTopology β]

lemma continuous_monotone {f : α → β}
  (hf : Continuous f) : Monotone f := sorry

lemma isOpen_iff_upper_and_LUB_mem_implies_inter_nonempty (u : Set α) :
IsOpen u ↔ (IsUpperSet u ∧ ∀ (d : Set α) (a : α), d.Nonempty → DirectedOn (· ≤ ·) d → IsLUB d a →
a ∈ u → (d ∩ u).Nonempty) := sorry
```

Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:281]: Yep

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Okay, how's that?

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 7]
```diff
@@ -169,15 +169,28 @@ instance [Preorder α] : ScottTopology (WithScottTopology α) :=
...
+
+/-- If `α` is equipped with the Scott topology, then it is homeomorphic to `WithScottTopology α`.
+-/
+def withScottTopologyHomeomorph : WithScottTopology α ≃ₜ α :=
+  WithScottTopology.ofScott.toHomeomorphOfInducing ⟨by erw [topology_eq α, induced_id]; rfl⟩
+
+lemma isOpen_eq_upper_and_LUB_mem_implies_tail_subset (u : Set α) : IsOpen u
 = (IsUpperSet u ∧ ∀ (d : Set α) (a : α), d.Nonempty → DirectedOn (· ≤ ·) d → IsLUB d a → a ∈ u
-  → ∃ b ∈ d, (Ici b) ∩ d ⊆ u) := rfl
+  → ∃ b ∈ d, (Ici b) ∩ d ⊆ u) := sorry
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean]:
```suggestion
  → ∃ b ∈ d, Ici b ∩ d ⊆ u) := sorry
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 8]
```diff
@@ -231,13 +244,12 @@ lemma isClosed_eq_lower_and_subset_implies_LUB_mem (s : Set (WithScottTopology 
     have c1: a ∈ s := h d a d₁ d₂ d₃ h'
     contradiction
 
-
-lemma isOpen_isUpper {s : Set (WithScottTopology α)} : IsOpen s → IsUpperSet s := by
+lemma isOpen_isUpper {s : Set α} : IsOpen s → IsUpperSet s := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:247]:
```suggestion
lemma isOpen_isUpperSet {s : Set α} : IsOpen s → IsUpperSet s := by
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 9]
```diff
@@ -0,0 +1,400 @@
...
+- `WithScottTopology.topological_space` - the Scott topology is defined as the join of the
+  topology of upper sets and the topological space where a set `u` is open if, when the least upper
+  bound of a directed set `d` lies in `u` then there is a tail of `d` which is a subset of `u`.
+
+## Main statements
+
+- `WithScottTopology.isOpen_isUpper` - Scott open sets are upper.
+- `WithScottTopology.isClosed_isLower` - Scott closed sets are lower.
+- `WithScottTopology.continuous_monotone` - functions continuous wrt the Scott topology are
+  monotone.
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Updated, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 10]
```diff
@@ -221,9 +221,7 @@ a ∈ u → (d ∩ u).Nonempty) := by
       use b
       constructor
       . exact e1_h_w
-      . have e2 : Ici b ⊆ u := isUpperSet_iff_Ici_subset.mp h.1 e1_h_h
-        apply Subset.trans _ e2
-        apply inter_subset_left
+      . exact Subset.trans (inter_subset_left (Ici b) d) (isUpperSet_iff_Ici_subset.mp h.1 e1_h_h)
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:224]:
```suggestion
      . exact Subset.trans (inter_subset_left (Ici b) d) (h.1.Ici_subset e1_h_h)
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 11]
```diff
@@ -325,11 +325,9 @@ lemma continuous_iff_scottContinuous
       have e1: IsLUB (f '' d) (f a) := h hd₁ hd₂ hd₃
       rw [isOpen_iff_upper_and_LUB_mem_implies_inter_nonempty] at hu
       have e2: ((f '' d) ∩ u).Nonempty := by
-        apply hu.2 _ _ (Nonempty.image f hd₁)
-        apply (directedOn_image.mpr (DirectedOn.mono hd₂ _))
+        apply hu.2 (f '' d) (f a) (Nonempty.image f hd₁)
+          (directedOn_image.mpr (DirectedOn.mono hd₂ _)) e1 ha
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean]: It's good style to leave arguments that can be unified as placeholders. Also there's dot notation available.
```suggestion
        apply hu.2 _ _(hd₁.image f ) (directedOn_image.mpr (hd₂.mono _)) e1 ha
```

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: @YaelDillies Thanks, I've made this change:
```
      have e2: ((f '' d) ∩ u).Nonempty := by
        apply hu.2 _ _ (hd₁.image f)
          (directedOn_image.mpr (hd₂.mono _)) (h hd₁ hd₂ hd₃) ha
        apply h.monotone
```
It feels like I should be able to merge these two `apply` statements into a single line - but I can't figure out how to do this?

**Comment by semorrison** [comment]
> @YaelDillies `docs/references.bib` doesn't seem to have been ported yet, so not sure what I should do with the [additional reference](https://github.com/leanprover-community/mathlib/pull/18448/commits/94a00fc17ab4b51bdbf19eb14b0fccfd2f7cd778)?

Please merge https://github.com/leanprover-community/mathlib4/pull/3665 in and add the reference (or wait until it is merged with master).

**Comment by mans0954** [comment]
> Please merge #3665 in and add the reference (or wait until it is merged with master).

Thanks, I've merged it in and added the reference.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 11 above)
Comment (semorrison) [reply Mathlib/Topology/Order/ScottTopology.lean]: I would say rather "it is good style to leave arguments which are not helpful to a human reader, and can by unified, as placeholders". :-)

Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean]: Finger-guessing
```
      have e2 : ((f '' d) ∩ u).Nonempty :=
        hu.2 _ _ _ (directedOn_image.mpr $ hd₂.mono h.monotone) (h hd₁ hd₂ hd₃) ha
```
You could even get down to
```
      have e2 : ((f '' d) ∩ u).Nonempty :=
        hu.2 _ _ _ (hd₂.mono h.monotone).image (h hd₁ hd₂ hd₃) ha
```
if you added
```
alias directedOn_image ↔ DirectedOn.of_image DirectedOn.image
```
in `order.directed`

**Comment by YaelDillies** [comment]
Is this ready for review or not?

**Comment by mans0954** [comment]
> Is this ready for review or not?

@YaelDillies I think I've got it as far as I can with my current level of lean(4) knowledge. I suspect that some of the proofs can be written more concisely by someone with deeper understanding.

So, if you have the time to make further comments, that would be appreciated - but I'm conscious that I must have taken up a lot of your time already.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 11 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: > ```
>       have e2 : ((f '' d) ∩ u).Nonempty :=
>         hu.2 _ _ _ (directedOn_image.mpr $ hd₂.mono h.monotone) (h hd₁ hd₂ hd₃) ha
> ```
@YaelDillies That's what I was expecting, but it doesn't work:
```
type mismatch
  ScottContinuous.monotone h
has type
  Monotone f : Prop
but is expected to have type
  a✝ ≤ b✝ → (f ⁻¹'o fun x x_1 ↦ x ≤ x_1) a✝ b✝ : Prop
```
The closest I could come up with was:
```
      have e2: ((f '' d) ∩ u).Nonempty := hu.2 _ _ (hd₁.image f)
          (directedOn_image.mpr (hd₂.mono (by simp only [Order.Preimage]; apply h.monotone)))
          (h hd₁ hd₂ hd₃) ha
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 12]
```diff
@@ -0,0 +1,375 @@
...
+  have s1 : IsOpen u
+  { rw [isOpen_compl_iff, ← closure_singleton]
+    exact isClosed_closure }
+  have u3 : b ∈ (f⁻¹'  u) :=
+    isUpperSet_iff_forall_le.mp (isOpen_isUpperSet (IsOpen.preimage hf s1)) hab h
+  have c1 : f b ∈ (Iic (f b))ᶜ := by
+    simp only [mem_compl_iff, mem_preimage, mem_Iic, le_refl, not_true] at u3
+  simp only [mem_compl_iff, mem_Iic, le_refl, not_true] at c1
+
+lemma continuous_iff_scottContinuous (f : α → β) : Continuous f ↔ ScottContinuous f := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:289]:
```suggestion
@[simp] lemma scottContinuous_iff_continuous (f : α → β) : ScottContinuous f ↔ Continuous f := by
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 13]
```diff
@@ -0,0 +1,375 @@
...
+end ScottTopology
+
+section complete_lattice
+
+variable [CompleteLattice α] [TopologicalSpace α] [ScottTopology α]
+
+lemma isOpen_eq_upper_and_sup_mem_implies_tail_subset
+(u : Set α) : IsOpen u =
+(IsUpperSet u ∧
+  ∀ (d : Set α), d.Nonempty → DirectedOn (· ≤ ·) d → supₛ d ∈ u → ∃ b ∈ d, Ici b ∩ d ⊆ u) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:348]:
```suggestion
lemma isOpen_iff_isUpperSet_and_sup_mem_implies_tail_subset {u : Set α} :
  IsOpen u = IsUpperSet u ∧
    ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → supₛ d ∈ u → ∃ b ∈ d, Ici b ∩ d ⊆ u) := by
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 14]
```diff
@@ -0,0 +1,354 @@
...
+open Set
+
+section preorder
+
+variable {α} {β}
+
+variable [Preorder α] [Preorder β]
+
+lemma isUpperSet_iff_forall_le  {s : Set α} : IsUpperSet s ↔ ∀ ⦃a b : α⦄, a ≤ b →
+  a ∈ s → b ∈ s := Iff.rfl
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Thanks. I've eliminated `isUpperSet_iff_forall_le`.

**Comment by mans0954** [comment]
@YaelDillies is this PR nearly there, or do you think it needs more work?

**Comment by YaelDillies** [comment]
Probably more work, but I don't have time to review until next week.

**Comment by mans0954** [comment]
> Probably more work, but I don't have time to review until next week.

Okay, thanks for all your help so far.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 15]
```diff
@@ -0,0 +1,439 @@
...
+
+import Mathlib.Logic.Equiv.Defs
+import Mathlib.Order.Directed
+import Mathlib.Order.UpperLower.Basic
+import Mathlib.Topology.Basic
+import Mathlib.Topology.ContinuousFunction.Basic
+import Mathlib.Topology.Order
+import Mathlib.Topology.Order.Lattice
+import Mathlib.Topology.Order.UpperLowerSetTopology
+import Mathlib.Topology.Order.LowerUpperTopology
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:15]: Can you trim down the imports? Only a few are actually needed.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 16]
```diff
@@ -0,0 +1,439 @@
...
+
+open Set
+
+section preorder
+
+variable {α} {β}
+
+variable [Preorder α] [Preorder β]
+
+def inaccessible_by_directed_joins (u : Set α) : Prop :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:75]: This is not following the new naming convention.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 17]
```diff
@@ -0,0 +1,439 @@
...
+  ∀ (d : Set α) (a : α), d.Nonempty → DirectedOn (· ≤ ·) d → IsLUB d a → a ∈ u → (d ∩ u).Nonempty
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:76]:
```suggestion
  ∀ ⦃d : Set α⦄ ⦃a : α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → IsLUB d a → a ∈ u → (d ∩ u).Nonempty
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 18]
```diff
@@ -0,0 +1,439 @@
...
+
+/--
+The Scott-Hausdorff topology is defined as the topological space where a set `u` is open if, when
+the least upper bound of a directed set `d` lies in `u` then there is a tail of `d` which is a
+subset of `u`.
+-/
+def ScottHausdorffTopology : TopologicalSpace α :=
+{ IsOpen := fun u => ∀ (d : Set α) (a : α), d.Nonempty → DirectedOn (· ≤ ·) d → IsLUB d a →
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:84]: Same here. Please use `⦃⦄`

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 19]
```diff
@@ -0,0 +1,439 @@
...
+  ⟨rfl⟩
+
+namespace ScottTopology
+
+section preorder
+
+variable [Preorder α]
+
+lemma isOpen_iff_upper_and_Scott_Hausdorff_Open' {u : Set α} :
+  IsOpen (WithScottTopology.ofScott ⁻¹' u) ↔ (IsUpperSet u ∧ ScottHausdorffTopology.IsOpen u) :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:196]:
```suggestion
  IsOpen (WithScottTopology.ofScott ⁻¹' u) ↔ IsUpperSet u ∧ ScottHausdorffTopology.IsOpen u :=
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 20]
```diff
@@ -0,0 +1,439 @@
...
+
+open TopologicalSpace
+
+lemma upperSetTopology_coinduced' {t₁ : TopologicalSpace α} [UpperSetTopology α]
+  (hf : Monotone f) : coinduced f t₁ ≤ @ScottTopology' β _ := by
+  rw [ScottTopology']
+  apply le_sup_of_le_left
+  rwa [← continuous_iff_coinduced_le, ← UpperSetTopology.monotone_iff_continuous]
+
+lemma Monotone_coinduced {t₁ : TopologicalSpace α} [UpperSetTopology α]
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:226]: That's a weird lemma name

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 21]
```diff
@@ -0,0 +1,439 @@
...
+  {t₂ : TopologicalSpace β} [ScottTopology β] (hf : Monotone f) : coinduced f t₁ ≤ t₂ := by
+  rw [ScottTopology.topology_eq β]
+  apply upperSetTopology_coinduced' hf
+
+lemma Monotone_continuous {t₁ : TopologicalSpace α} [UpperSetTopology α]
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:231]: This one too

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 22]
```diff
@@ -0,0 +1,439 @@
...
+
+section preorder
+
+variable [Preorder α] [TopologicalSpace α] [ScottTopology α]
+
+lemma isOpen_iff_upper_and_Scott_Hausdorff_Open {u : Set α} : IsOpen u
+↔ (IsUpperSet u ∧ ScottHausdorffTopology.IsOpen u) := by erw [topology_eq α]; rfl
+
+lemma isOpen_iff_upper_and_inaccessible_by_directed_joins {u : Set α} :
+IsOpen u ↔ (IsUpperSet u ∧ inaccessible_by_directed_joins u) := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:248]:
```suggestion
IsOpen u ↔ IsUpperSet u ∧ inaccessible_by_directed_joins u := by
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 23]
```diff
@@ -0,0 +1,439 @@
...
+
+
+end morphisms
+
+section preorder
+
+variable [Preorder α] [TopologicalSpace α] [ScottTopology α]
+
+lemma isOpen_iff_upper_and_Scott_Hausdorff_Open {u : Set α} : IsOpen u
+↔ (IsUpperSet u ∧ ScottHausdorffTopology.IsOpen u) := by erw [topology_eq α]; rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:245]: Indentation is wrong

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 24]
```diff
@@ -0,0 +1,439 @@
...
+      exact inter_subset_inter_left _ d₄
+    rw [c2] at c1
+    simp only [Set.not_nonempty_empty] at c1
+  · intros h d a d₁ d₂ d₃ d₄
+    rw [inter_compl_nonempty_iff]
+    by_contra h'
+    have c1: a ∈ s := h d a d₁ d₂ d₃ h'
+    contradiction
+
+lemma isOpen_isUpperSet {s : Set α} : IsOpen s → IsUpperSet s := fun h =>
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:292]:
```suggestion
lemma _root_.isOpen.isUpperSet {s : Set α} : IsOpen s → IsUpperSet s := fun h =>
```
or, if you don't want to dump it in `_root_`,
```suggestion
lemma isUpperSet_of_isOpen {s : Set α} : IsOpen s → IsUpperSet s := fun h =>
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 25]
```diff
@@ -0,0 +1,439 @@
...
+  (isOpen_iff_upper_and_Scott_Hausdorff_Open.mp h).left
+
+lemma isClosed_isLower {s : Set α} : IsClosed s → IsLowerSet s := fun h =>
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:295]: Same here

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 26]
```diff
@@ -0,0 +1,439 @@
...
+    · exact isLowerSet_Iic a
+    · intros d b _ _ d₃ d₄
+      exact (isLUB_le_iff d₃).mpr d₄
+  · rw [← LowerSet.coe_Iic, ← lowerClosure_singleton]
+    apply lowerClosure_le_closure
+
+variable [Preorder β] [TopologicalSpace β] [ScottTopology β]
+
+lemma continuous_monotone {f : α → β}
+  (hf : Continuous f) : Monotone f := by
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:324]:
```suggestion
lemma _root_.Continuous.monotone {f : α → β} (hf : Continuous f) : Monotone f := by
```
or
```suggestion
lemma monotone_of_continuous {f : α → β} (hf : Continuous f) : Monotone f := by
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 27]
```diff
@@ -0,0 +1,439 @@
...
+  constructor
+  · exact fun h d hd₁ hd₂ hd₃ => h d (sSup d) hd₁ hd₂ (isLUB_sSup d) hd₃
+  · exact fun h d a h₁ h₂ h₃ ha => (Set.mem_of_eq_of_mem (IsLUB.sSup_eq h₃).symm (h d h₁ h₂ ha))
+
+
+end complete_lattice
+
+variable [Preorder α]
+
+lemma Scott_Hausdorff_le_Scott [TopologicalSpace α] [ScottTopology α] :
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:424]:
```suggestion
lemma scottHausdorffTopology_le_of_scottTopology [TopologicalSpace α] [ScottTopology α] :
```
You might want to declare your predicates and topologies in the `Topology` namespace to avoid those stupidly long lemma names.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 15 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 18 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 25 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 23 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: I've adjusted the indentation on several results, hopefully right now.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 22 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 16 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:67]: Is that documented somewhere? The link from the README appears to still be for lean3 mathlib https://leanprover-community.github.io/contribute/naming.html

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:67]: I'm assuming it should be `InaccessibleByDirectedJoins`?

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 27 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:415]: Do you mean `def Topology.ScottHausdorff : TopologicalSpace α :=...`? I don't see how that would change the length of the lemma names unless they were also in the Topology namespace?

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 20 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:219]: Yes, I still don't have a good feel for multiple topologies on a space. Are these even the right lemmas?

**Review by YaelDillies — COMMENTED** [review]
I can keep on giving these rounds on low level comments, but it would be very much appreciated if you could be more pro-active and keep an eye out for the things I've pointed out time and time again 😄 
* The lemma naming scheme is `conclusion_of_premise`, not `premise_imp_conclusion` or `premise_implies_conclusion`
* Caps
* Uses of constructors followed by short uses of `exact`
* Indentation and more generally whitespace
* Docstrings should match what's in the file

I'm mostly worried that we'll reach a point where your file is so big that you introduce those slight errors faster than I can review them. I would rather have you crush them at the source.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 28]
```diff
@@ -0,0 +1,430 @@
...
+## References
+
+* [Gierz et al, *A Compendium of Continuous Lattices*][GierzEtAl1980]
+* [Abramsky and Jung, *Domain Theory*][abramsky_gabbay_maibaum_1994]
+
+## Tags
+Scott topology, preorder
+-/
+
+variable (α β : Type _)
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:58]: @YaelDillies are you sure about this? Most of Mathlib4 seems to be using `Type _`:
```
grep -r "Type\*" Mathlib | wc -l
49
grep -r "Type _" Mathlib | wc -l
9172
```
Or is there a difference in meaning between `Type _` and `Type*`?

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 29]
```diff
@@ -0,0 +1,430 @@
...
+        _ = (Ici b₁ ∩ d) ∩ (Ici b₂ ∩ d) := by rw [inter_inter_distrib_right]
+        _ ⊆ s ∩ t := inter_subset_inter hb₁_h hb₂_h
+  isOpen_sUnion := by
+    intros s h d a hd₁ hd₂ hd₃ ha
+    obtain ⟨s₀, hs₀_w, hs₀_h⟩ := ha
+    obtain ⟨b, hb_w, hb_h⟩ := h s₀ hs₀_w hd₁ hd₂ hd₃ hs₀_h
+    use b
+    constructor
+    · exact hb_w
+    · exact Set.subset_sUnion_of_subset s s₀ hb_h hs₀_w }
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, and elsewhere, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 30]
```diff
@@ -0,0 +1,430 @@
...
+open Set
+
+section preorder
+
+variable {α} {β}
+
+variable [Preorder α] [Preorder β]
+
+def InaccessibleByDirectedJoins (u : Set α) : Prop :=
+  ∀ ⦃d : Set α⦄ ⦃a : α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → IsLUB d a → a ∈ u → (d ∩ u).Nonempty
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: @YaelDillies Presumably `IsOpen` in `def ScottHausdorffTopology` should become `fun u => ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a : α⦄, IsLUB d a →  a ∈ u → ∃ b ∈ d, Ici b ∩ d ⊆ u` as well?

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 28 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:58]: Yes I am sure. Merge master 😉

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 31]
```diff
@@ -0,0 +1,430 @@
...
+lemma isOpen_iff_upper_and_Scott_Hausdorff_Open {u : Set α} : IsOpen u
+  ↔ IsUpperSet u ∧ ScottHausdorffTopology.IsOpen u := by erw [topology_eq α]; rfl
+
+lemma isOpen_iff_upper_and_InaccessibleByDirectedJoins {u : Set α} :
+    IsOpen u ↔ IsUpperSet u ∧ InaccessibleByDirectedJoins u := by
+  rw [isOpen_iff_upper_and_Scott_Hausdorff_Open]
+  constructor
+  · refine' And.imp_right _
+    intros h d a d₁ d₂ d₃ ha
+    obtain ⟨b, h_1_w, h_1_h⟩ := h d₁ d₂ d₃ ha
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, also elsewhere.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 32]
```diff
@@ -0,0 +1,430 @@
...
+import Mathlib.Topology.Order.UpperLowerSetTopology
+
+/-!
+# Scott topology
+
+This file introduces the Scott topology on a preorder.
+
+## Main definitions
+
+- `InaccessibleByDirectedJoins` - a set `u` is said to be inaccessible by directed joins if, when
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: How about `DirSupInacc`? I've left the phrase "inaccessible by directed joins" in the docstring, as that's what's used in the literature.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 33]
```diff
@@ -0,0 +1,430 @@
...
+  upper bounds of directed sets) if and only if it is continuous wrt the Scott topology.
+- `ScottTopology.instT0Space` - the Scott topology on a partial order is T₀.
+
+## Implementation notes
+
+A type synonym `WithScottTopology` is introduced and for a preorder `α`, `WithScottTopology α`
+is made an instance of `topological_space` by the `ScottTopology'`.
+
+We define a mixin class `ScottTopology` for the class of types which are both a preorder and a
+topology and where the topology is the `ScottTopology'`.
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:38]: @YaelDillies Do you mean:
```
def ScottTopology' : TopologicalSpace α := upperSetTopology' α ⊔ ScottHausdorffTopology
```
becomes
```
def Topology.Scott : TopologicalSpace α := upperSetTopology' α ⊔ ScottHausdorffTopology
```
and
```
class ScottTopology (α : Type _) [t : TopologicalSpace α] [Preorder α] : Prop where
  topology_eq_ScottTopology : t = ScottTopology'
```
becomes
```
class Topology.IsScott (α : Type _) [t : TopologicalSpace α] [Preorder α] : Prop where
  topology_eq_ScottTopology : t = Topology.Scott
```
whilst
```
def WithScottTopology := α
```
becomes
```
def Topology.WithScott := α
```
?

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 30 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean]: Yes, for similar reasons!

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 34]
```diff
@@ -0,0 +1,430 @@
...
+
+lemma ScottOpen_implies_ScottHausdorffOpen {s : Set α} :
+    IsOpen (WithScottTopology.ofScott ⁻¹' s) → ScottHausdorffTopology.IsOpen s :=
+  scottHausdorffTopology_le_of_scottTopology _
+
+lemma scottHausdorffTopology_le_Lower [TopologicalSpace α] [LowerTopology α] :
+    ScottHausdorffTopology ≤  ‹TopologicalSpace α› :=
+  fun _ h => ScottHausdorffTopology.Lower_IsOpen (LowerTopology.isLowerSet_of_isOpen h)
+
+lemma ScottHausdorffOpen_implies_LowerOpen {s : Set α} :
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Removed.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 35]
```diff
@@ -0,0 +1,430 @@
...
+end complete_lattice
+
+variable [Preorder α]
+
+lemma scottHausdorffTopology_le_of_scottTopology [TopologicalSpace α] [ScottTopology α] :
+    ScottHausdorffTopology ≤ ‹TopologicalSpace α› := by
+  rw [ScottTopology.topology_eq α, ScottTopology']
+  apply le_sup_right
+
+lemma ScottOpen_implies_ScottHausdorffOpen {s : Set α} :
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Probably not, removed.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 36]
```diff
@@ -0,0 +1,430 @@
...
+
+open Set
+
+section preorder
+
+variable {α} {β}
+
+variable [Preorder α] [Preorder β]
+
+def InaccessibleByDirectedJoins (u : Set α) : Prop :=
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: After merging `master` the linter now reports:
```
Run liskin/gh-problem-matcher-wrap@v2
Add matcher: /home/lean/actions-runner/_work/_actions/liskin/gh-problem-matcher-wrap/v2/problem-matchers/gcc.json
/usr/bin/env LEAN_ABORT_ON_PANIC=1 make lint
lake build
./build/bin/runLinter
-- Found 2 errors in 164075 declarations (plus 451108 automatically generated ones) in mathlib with 13 linters

/- The `docBlame` linter reports:
DEFINITIONS ARE MISSING DOCUMENTATION STRINGS: -/
-- Mathlib.Topology.Order.ScottTopology
Error: ./Mathlib/Topology/Order/ScottTopology.lean:67:1: error: DirSupInacc.{u_1} definition missing documentation string
Error: ./Mathlib/Topology/Order/ScottTopology.lean:164:3: error: ScottTopology.topology_eq_ScottTopology.{u_1} definition missing documentation string
make: *** [GNUmakefile:16: lint] Error 1
Error: The process '/usr/bin/env' failed with exit code 2
Remove matcher: gcc
```

**Comment by mans0954** [comment]
I'm not sure I understand this linter error:
```
Run liskin/gh-problem-matcher-wrap@v2
Add matcher: /home/lean/actions-runner/_work/_actions/liskin/gh-problem-matcher-wrap/v2/problem-matchers/gcc.json
/usr/bin/env LEAN_ABORT_ON_PANIC=1 make lint
lake build
./build/bin/runLinter
-- Found 1 error in 164075 declarations (plus 451108 automatically generated ones) in mathlib with 13 linters

/- The `docBlame` linter reports:
DEFINITIONS ARE MISSING DOCUMENTATION STRINGS: -/
-- Mathlib.Topology.Order.ScottTopology
Error: ./Mathlib/Topology/Order/ScottTopology.lean:168:3: error: ScottTopology.topology_eq_ScottTopology.{u_3} definition missing documentation string
make: *** [GNUmakefile:16: lint] Error 1
Error: The process '/usr/bin/env' failed with exit code 2
Remove matcher: gcc
```

**Comment by YaelDillies** [comment]
You can nolint this one. It mistakenly complains that the field of your new typeclass is a `def` without a docstring. But in fact it is a lemma without a docstring (which is fine).

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 37]
```diff
@@ -164,6 +164,7 @@ The Scott topology is defined as the join of the topology of upper sets and the
 where a set `u` is open if, when the least upper bound of a directed set `d` lies in `u` then there
 is a tail of `d` which is a subset of `u`.
 -/
+@[nolint docBlame]
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean]: I think you must put it on the field directly

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 33 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:38]: Yes, exactly.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 38]
```diff
@@ -0,0 +1,430 @@
...
+
+We define a mixin class `ScottTopology` for the class of types which are both a preorder and a
+topology and where the topology is the `ScottTopology'`.
+It is shown that `WithScottTopology α` is an instance of `ScottTopology`.
+
+A class `Scott` is defined in `topology.omega_complete_partial_order` and made an instance of a
+topological space by defining the open sets to be those which have characteristic functions which
+are monotone and preserve limits of countable chains. Whilst this definition of the Scott topology
+coincides with the one given here in some special cases, in general they are not the same
+[Domain Theory, 2.2.4][abramsky_gabbay_maibaum_1994].
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:45]: We have this in one direction now thanks to #6831. I'm still working on the partial result in the other direction.

[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: I have updated the wording to make it more clear.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 39]
```diff
@@ -101,8 +101,8 @@ def ScottHausdorffTopology : TopologicalSpace α :=
     use b
     exact ⟨hbd, Set.subset_sUnion_of_subset s s₀ hbds₀ hs₀s⟩ }
 
-lemma ScottHausdorffTopology.Lower_IsOpen {s : Set α} (h : IsLowerSet s) :
-    ScottHausdorffTopology.IsOpen s := by
+lemma Topology.ScottHausdorff.Lower_IsOpen {s : Set α} (h : IsLowerSet s) :
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:104]:
```suggestion
lemma Topology.ScottHausdorff.isOpen_of_isLowerSet {s : Set α} (h : IsLowerSet s) :
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 40]
```diff
@@ -101,8 +101,8 @@ def ScottHausdorffTopology : TopologicalSpace α :=
     use b
     exact ⟨hbd, Set.subset_sUnion_of_subset s s₀ hbds₀ hs₀s⟩ }
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:102]:
```suggestion
    exact ⟨b, hbd, Set.subset_sUnion_of_subset s s₀ hbds₀ hs₀s⟩ }
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 41]
```diff
@@ -112,66 +112,66 @@ lemma ScottHausdorffTopology.Lower_IsOpen {s : Set α} (h : IsLowerSet s) :
...
 topology.
 -/
-def ScottTopology' : TopologicalSpace α := Topology.upperSet α ⊔ ScottHausdorffTopology
+def Topology.Scott : TopologicalSpace α := Topology.upperSet α ⊔ Topology.ScottHausdorff
 
-lemma upper_le_Scott : Topology.upperSet α ≤  ScottTopology' := le_sup_left
+lemma upper_le_Scott : Topology.upperSet α ≤  Topology.Scott := le_sup_left
 
-lemma ScottHausdorff_le_Scott : @ScottHausdorffTopology α ≤  @ScottTopology' α := le_sup_right
+lemma ScottHausdorff_le_Scott : @Topology.ScottHausdorff α ≤  @Topology.Scott α := le_sup_right
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:119]:
```suggestion
lemma scottHausdorff_le_scott : @ScottHausdorff α ≤ @Scott α := le_sup_right
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 42]
```diff
@@ -112,66 +112,66 @@ lemma ScottHausdorffTopology.Lower_IsOpen {s : Set α} (h : IsLowerSet s) :
 The Scott topology is defined as the join of the topology of upper sets and the Scott Hausdorff
 topology.
 -/
-def ScottTopology' : TopologicalSpace α := Topology.upperSet α ⊔ ScottHausdorffTopology
+def Topology.Scott : TopologicalSpace α := Topology.upperSet α ⊔ Topology.ScottHausdorff
 
-lemma upper_le_Scott : Topology.upperSet α ≤  ScottTopology' := le_sup_left
+lemma upper_le_Scott : Topology.upperSet α ≤  Topology.Scott := le_sup_left
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:117]:
```suggestion
lemma upperSet_le_scott : upperSet α ≤ Scott := le_sup_left
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 43]
```diff
@@ -77,7 +77,7 @@ The Scott-Hausdorff topology is defined as the topological space where a set `u`
 the least upper bound of a directed set `d` lies in `u` then there is a tail of `d` which is a
 subset of `u`.
 -/
-def ScottHausdorffTopology : TopologicalSpace α :=
+def Topology.ScottHausdorff : TopologicalSpace α :=
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:80]:
```suggestion
def Topology.scottHausdorff : TopologicalSpace α :=
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 44]
```diff
@@ -111,11 +111,11 @@ lemma ScottHausdorff.Lower_IsOpen {s : Set α} (h : IsLowerSet s) : ScottHausdor
 The Scott topology is defined as the join of the topology of upper sets and the Scott Hausdorff
 topology.
 -/
-def Scott : TopologicalSpace α := upperSet α ⊔ ScottHausdorff
+def Scott : TopologicalSpace α := upperSet α ⊔ scottHausdorff
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:114]:
```suggestion
def scott : TopologicalSpace α := upperSet α ⊔ scottHausdorff
```

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 39 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 40 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 41 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 42 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 43 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 44 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean:114]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 45]
```diff
@@ -80,11 +80,8 @@ subset of `u`.
 def scottHausdorff : TopologicalSpace α :=
 { IsOpen := fun u => ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a : α⦄, IsLUB d a →
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean]:
```suggestion
def scottHausdorff : TopologicalSpace α where
  IsOpen u := ∀ ⦃d : Set α⦄, d.Nonempty → DirectedOn (· ≤ ·) d → ∀ ⦃a : α⦄, IsLUB d a →
```

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 46]
```diff
@@ -210,8 +210,8 @@ lemma UpperSetTopology_Monotone_coinduced_LE {t₁ : TopologicalSpace α} [Topol
   rw [IsScott.topology_eq β]
   apply UpperSetTopology_Monotone_coinduced_LE' hf
 
-lemma Monotone_From_UpperSetTopology_Continuous {_ : TopologicalSpace α} [Topology.IsUpperSet α]
-    {_ : TopologicalSpace β} [IsScott β] {f : α → β} (hf : Monotone f)  : Continuous f :=
+lemma Monotone_From_UpperSetTopology_Continuous [TopologicalSpace α] [Topology.IsUpperSet α]
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:213]: This kind of lemmas makes me think you need typeclasses of the form "upper sets are open in the topology" and "open sets are upper sets in the topology".
```suggestion
lemma continuous_of_monotone_of_upperSetTopology [TopologicalSpace α] [Topology.IsUpperSet α]
```

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: @YaelDillies more generally:
```
import Mathlib.Topology.Order.Lattice

class IsLE (α : Type*) (t₀ : TopologicalSpace α) [t : TopologicalSpace α] [Preorder α] : Prop where
  topology_le_Topology : t ≤ t₀

class IsGE (α : Type*) (t₀ : TopologicalSpace α) [t : TopologicalSpace α] [Preorder α] : Prop where
  topology_ge_Topology : t ≥ t₀
```
?

Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean]: I don't think that `Topology.IsLE` is a great idea. I would rather have specialized version for the cases we care about.

Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Perhaps I should remove these lemmas until someone has a use for them?

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 46 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: @YaelDillies I've removed these morphisms, as I'm not convinced that they're actually useful.

**Comment by mans0954** [comment]
@YaelDillies is there any way I can move this PR forward?

**Comment by YaelDillies** [comment]
Sorry, I have very little time right now. I'll try to review this afternoon, but no promise.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 44 above)
Comment (YaelDillies) [reply Mathlib/Topology/Order/ScottTopology.lean:108]: Seemingly, you didn't actually push the change! It's still shown `Scott` on the diff.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 47]
```diff
@@ -0,0 +1,364 @@
...
+/-!
+# Scott topology
+
+This file introduces the Scott topology on a preorder.
+
+## Main definitions
+
+- `DirSupInacc` - a set `u` is said to be inaccessible by directed joins if, when the least upper
+  bound of a directed set `d` lies in `u` then `d` has non-empty intersection with `u`.
+- `Scott` - the Scott topology is defined as the join of the topology of upper sets and the
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:18]: Can you check all the names in the docstring and make sure they're up to date and all fully qualified?

For example, this should be
```suggestion
- `Topology.scott` - the Scott topology is defined as the join of the topology of upper sets and the
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 48]
```diff
@@ -0,0 +1,364 @@
...
+      ⟨b, hb,Subset.trans (inter_subset_right (Ici b) d)
+      (fun _ hc => h (mem_upperBounds.mp hda.1 _ hc) ha)⟩
+
+/--
+The Scott topology is defined as the join of the topology of upper sets and the Scott Hausdorff
+topology.
+-/
+def Scott : TopologicalSpace α := upperSet α ⊔ scottHausdorff
+
+lemma upperSet_le_Scott : upperSet α ≤ Scott := le_sup_left
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:110]: and don't forget to also change the lemma names
```suggestion
lemma upperSet_le_scott : upperSet α ≤ scott := le_sup_left
```

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 44 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Sorry! Hopefully I have corrected this now.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 47 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: I think this is done now.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 48 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Hopefully this is correct now?

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 49]
```diff
@@ -0,0 +1,366 @@
...
+@[match_pattern] def toScott : α ≃ WithScott α := Equiv.refl _
+
+/-- `ofScott` is the identity function from the `WithScott` of a type.  -/
+@[match_pattern] def ofScott : WithScott α ≃ α := Equiv.refl _
+
+@[simp] lemma toScott_symm_eq : (@toScott α).symm = ofScott := rfl
+@[simp] lemma ofScott_symm_eq : (@ofScott α).symm = toScott := rfl
+@[simp] lemma toScott_ofScott (a : WithScott α) : toScott (ofScott a) = a := rfl
+@[simp] lemma ofScott_toScott (a : α) : ofScott (toScott a) = a := rfl
+-- porting note: removed @[simp] to make linter happy
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:140]: I doubt there's any point putting porting notes in code that was never merged to mathlib in Lean 3.

Also in this case you should tag this `@[simp, nolint simpNF]` since the linter is wrong: your lemma is useful for `dsimp` and can't be proved by `dsimp`.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 50]
```diff
@@ -0,0 +1,366 @@
...
+The Scott topology is defined as the join of the topology of upper sets and the topological space
+where a set `u` is open if, when the least upper bound of a directed set `d` lies in `u` then there
+is a tail of `d` which is a subset of `u`.
+-/
+class IsScott (α : Type*) [t : TopologicalSpace α] [Preorder α] : Prop where
+  topology_eq_scott : t = scott
+
+attribute [nolint docBlame]
+  IsScott.topology_eq_scott
+
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:170]: You don't need this (yes, linting locally using `#lint` tells you lies)
```suggestion
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 51]
```diff
@@ -0,0 +1,366 @@
...
+instance [Preorder α] : IsScott (WithScott α) :=
+  ⟨rfl⟩
+
+namespace IsScott
+
+section preorder
+
+variable [Preorder α]
+
+lemma isOpen_iff_upper_and_scottHausdorff_Open' {u : Set α} :
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:180]:
```suggestion
lemma isOpen_iff_isUpperSet_and_scottHausdorff_open' {u : Set α} :
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 52]
```diff
@@ -0,0 +1,366 @@
...
+def WithScottHomeomorph : WithScott α ≃ₜ α :=
+  WithScott.ofScott.toHomeomorphOfInducing ⟨by erw [topology_eq α, induced_id]; rfl⟩
+
+end preorder
+
+section preorder
+
+variable [Preorder α] [TopologicalSpace α] [IsScott α] {u : Set α}
+
+lemma isOpen_iff_upper_and_scottHausdorff_Open :
```
Comment (YaelDillies) [inline Mathlib/Topology/Order/ScottTopology.lean:202]:
```suggestion
lemma isOpen_iff_upper_and_scottHausdorff_open :
```

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 53]
```diff
@@ -0,0 +1,366 @@
...
+    have c1: a ∈ s := h d₁ d₂ d₃ h'
+    contradiction
+
+lemma isUpperSet_of_isOpen {s : Set α} : IsOpen s → IsUpperSet s := fun h =>
+  (isOpen_iff_upper_and_scottHausdorff_Open.mp h).left
+
+lemma isLowerSet_of_isClosed {s : Set α} : IsClosed s → IsLowerSet s := fun h =>
+  (isClosed_iff_lower_and_subset_implies_LUB_mem.mp h).left
+
+lemma lowerClosure_le_closure {s : Set α} : lowerClosure s ≤ closure s := by
```
[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: @YaelDillies this gives me:
```
failed to synthesize instance HasSubset (LowerSet α)
```

[the remark this answers is not in the document]
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: `(lowerClosure s : Set α) ⊆ closure s` works.

File: Mathlib/Topology/Order/ScottTopology.lean (hunk 49 above)
Comment (mans0954) [reply Mathlib/Topology/Order/ScottTopology.lean]: Done, thanks.

**Comment by YaelDillies** [comment]
Sorry I started cleaning things but I ran out of time for today.

**Comment by YaelDillies** [comment]
Okay, done. Tell me what you think.

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 54]
```diff
@@ -0,0 +1,364 @@
...
+/-! ### Prerequisite order properties -/
+
+section Preorder
+variable [Preorder α] {s t : Set α}
+
+lemma IsUpperSet.upperBounds_subset (hs : IsUpperSet s) : s.Nonempty → upperBounds s ⊆ s :=
+  fun ⟨_a, ha⟩ _b hb ↦ hs (hb ha) ha
+
+lemma IsLowerSet.lowerBounds_subset (hs : IsLowerSet s) : s.Nonempty → lowerBounds s ⊆ s :=
+  fun ⟨_a, ha⟩ _b hb ↦ hs (hb ha) ha
```
Comment (mans0954) [inline Mathlib/Topology/Order/ScottTopology.lean:74]: These seem fairly general-purpose - should they be moved to the `Preorder` section in `Order/UpperLower/Basic`?

File: Mathlib/Topology/Order/ScottTopology.lean [hunk 55]
```diff
@@ -0,0 +1,364 @@
...
+end Preorder
+
+section PartialOrder
+variable [PartialOrder α] [TopologicalSpace α] [IsScott α]
+
+/--
+The Scott topology on a partial order is T₀.
+-/
+-- see Note [lower instance priority]
+instance (priority := 90): T0Space α :=
```
Comment (mans0954) [inline Mathlib/Topology/Order/ScottTopology.lean:280]: Should there be a space between `)` and `:`?

**Review by YaelDillies — APPROVED** [review]
I've incorporated your last commit by turning the equalities of predicates into lemmas. I've thus dropped the `CompleteLattice` sections about `IsScott` since they can now easily be derived from the two new lemmas.

Since you're happy with my cleanup and I'm mostly happy with the state of this PR, let's merge. Thank you, and sorry that it took so long!

maintainer merge

**Comment by mans0954** [comment]
> I've incorporated your last commit by turning the equalities of predicates into lemmas. I've thus dropped the `CompleteLattice` sections about `IsScott` since they can now easily be derived from the two new lemmas.

That's fine.

> Since you're happy with my cleanup and I'm mostly happy with the state of this PR, let's merge. Thank you, and sorry that it took so long!

Thank you for the huge amount of work you've put into this! I never imagined it would take this much effort when I started. Sorry that I need so much hand-holding.

Christopher
